US05231102
b) Trans-2-carboxy-4-methoxycarbonylmethyl-5,7-dichloro-1,2,3,4-tetrahydroquinoline
Trans-2-methoxycarbonyl-4-methoxycarbonylmethyl-5,7-dichloro-1,2,3,4-tetrahydroquinoline (0.4 g, 0.0012 mol) was dissolved in 50% aqueous acetone and cooled to 0° C. whereupon 0.5N sodium hydroxide solution (2.42 ml, 1 molar equivalent) was added. The reaction mixture was allowed to warm slowly to room temperature and stirred for 14 h. The acetone was removed under vacuum and the aqueous residue acidified to pH 1 with 1N hydrochloric acid and extracted into ethyl acetate (2×50 ml). The combined organic layers were dried (Na2SO4), filtered and concentrated in vacuo to leave a residue which was purified by chromatography on silica gel using 4% methanol/1% acetic acid in dichloromethane as eluent to give the title compound (0.26 g, m.p. 181°-182° C.) as a colourless solid; δ (250 MHz, CDCl3) 1.72 (1H, ddd, J=13.3, 12.5 and 4.0 Hz, CHACHBHCCHD), 2.36 (1H, dm, J=13.3 Hz, CHACHBHCCHD), 2.39 (1H, dd, J=16.0 and 11.2 Hz, CHEHFCO2CH3), 2.72 (1H, dd, J=16.0 and 3.5 Hz, CHEHFCO2CH3), 3.66 (1H, m, CHACHBHCCHDCH2CH3), 3.73 (3H, s, CO2CH3), 3.99 (1H, dd, J=12.5 and 5.1 Hz, CHACHBHCCHDCH2CO2Me), 515 (1H, br, s, NH), 6.56 (1H, d, J=2.0 Hz, 6-H or 8-H), 6.62 (1H, d, J=2.0 Hz, 6-H or 8-H); m/e 317 (M+); Found C, 49.17; H, 4.13; N, 4.42. C13H13Cl2NO4 requires C, 49.08; H, 4.12; N, 4.40%.

reactant | Trans-2-methoxycarbonyl-4-methoxycarbonylmethyl-5,7-dichloro-1,2,3,4-tetrahydroquinoline | 0.0012 mol, 0.4 g | COC(=O)[C@@H]1NC2=CC(=CC(=C2[C@H](C1)CC(=O)OC)Cl)Cl | C14H15Cl2NO4
reactant | sodium hydroxide | 0.5N, 2.42 ml | [OH-].[Na+]
solvent | acetone | CC(=O)C | C3H6O
product | Trans-2-carboxy-4-methoxycarbonylmethyl-5,7-dichloro-1,2,3,4-tetrahydroquinoline | 0.26 g | C(=O)(O)[C@@H]1NC2=CC(=CC(=C2[C@H](C1)CC(=O)OC)Cl)Cl | C13H13Cl2NO4
